US08609688B2
Step 3: tert-Butyl (1-{4-[2-(2-aminopyridin-3-yl)-5-(3-{(2S)-2-[(benzyloxy)methyl]morpholin-4-yl}phenyl)-3H-imidazo[4,5-b]pyridin-3-yl]phenyl}cyclobutyl)carbamate
A mixture of tert-butyl (1-{4-[2-(2-aminopyridin-3-yl)-5-chloro-3H-imidazo[4,5-b]pyridin-3-yl]phenyl}cyclobutyl)carbamate (50.0 mg, 0.101 mmol), (2S)-2-[(benzyloxy)methyl]-4-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]morpholine (82.4 mg, 0.204 mmol), bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) (7.21 mg, 0.0102 mmol), and 2M NaOH aq. (0.150 mL, 0.310) in DME (2 mL) was heated at 160° C. for 2 hours under microwave irradiation. After cooling to room temperature, the mixture was diluted with DCM and filtered through a Celite pad. The combined filtrate and washings were concentrated. The residue was purified by silica gel column chromatography (CHCl3/MeOH=98:2) and PTLC(CHCl3/MeOH=9:1) to afford desired product (36.0 mg, 47.9%) as pale yellow foam.

reactant | tert-butyl (1-{4-[2-(2-aminopyridin-3-yl)-5-chloro-3H-imidazo[4,5-b]pyridin-3-yl]phenyl}cyclobutyl)carbamate | 0.101 mmol, 50.0 mg | NC1=NC=CC=C1C1=NC=2C(=NC(=CC2)Cl)N1C1=CC=C(C=C1)C1(CCC1)NC(OC(C)(C)C)=O | C26H27ClN6O2
reactant | (2S)-2-[(benzyloxy)methyl]-4-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]morpholine | 0.204 mmol, 82.4 mg | C(C1=CC=CC=C1)OC[C@@H]1CN(CCO1)C1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C | C24H32BNO4
reactant | NaOH | 2M, 0.150 mL | [OH-].[Na+]
solvent | DME | 2 mL | COCCOC | C4H10O2
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) | 0.0102 mmol, 7.21 mg | CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.Cl[Pd]Cl
product | tert-Butyl (1-{4-[2-(2-aminopyridin-3-yl)-5-(3-{(2S)-2-[(benzyloxy)methyl]morpholin-4-yl}phenyl)-3H-imidazo[4,5-b]pyridin-3-yl]phenyl}cyclobutyl)carbamate | 36.0 mg, 47.9% | NC1=NC=CC=C1C1=NC=2C(=NC(=CC2)C2=CC(=CC=C2)N2C[C@H](OCC2)COCC2=CC=CC=C2)N1C1=CC=C(C=C1)C1(CCC1)NC(OC(C)(C)C)=O | C44H47N7O4
